### ISSUE TITLE
Adding certain rules causes kernel error in later theorem

### ISSUE THREAD

**Issue by hgoldstein95** [leanprover-community/aesop#186]
I'm not 100% sure this is an Aesop problem, it could be a core Lean issue, but I can't get the issue to happen without Aesop so I'm starting here.

Here's an example of a couple of very simple theorems:
```lean4
import Aesop

theorem foo
    {T : Prop → Prop}
    (h : ∀ v, T (v = 2)) :
    ∀ v, T (2 = v) := by
  aesop? (add unsafe (by simp_all [eq_comm]))

theorem bar (h : Q ∧ P) : P ∧ Q := by
  simp_all [and_comm]
```

Aesop easily solves `foo`, suggesting the proof `intro v; (simp_all [eq_comm])` as expected, but then `bar` fails with the message "(kernel) constant has already been declared 'Module._auxLemma.1'".

If I replace the call to `aesop` with the suggested proof, everything compiles correctly.

Any idea what's going on?
